* C:\Users\FHoch\Documents\Projekte\Telescope-Heater\sim\Currentsensor.asc
XU1 N001 sense +5V 0 N002 TLV9352
R1 sense 0 0.2
C1 sense 0 1n
C2 sense 0 2.2p
V1 +5V 0 5
R2 N002 N001 100k
R3 N001 +5V 47k
R4 0 N001 33
C3 N002 N001 2.2p
I1 sense 0 PULSE(0 -2 0 0.1 0.1 0.0001 0.2)
.tran 0.5
.lib C:\Users\FHoch\Documents\LTspiceXVII\lib\sym\AutoGenerated\TLV9352.cir
.backanno
.end
